US08003647B2
4-(3-Cyano-5-hydroxymethylindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(5-carboxy-3-cyanoindol-1yl)benzoic acid ethyl ester (0.057 g) in tetrahydrofuran (2 mL) was added borane-tetrahydrofuran complex (1.2 mol/L tetrahydrofuran solution 0.2 mL) at 0° C. and this mixture was stirred at room temperature for 2 hours. To this reaction mixture was added a saturated aqueous sodium bicarbonate solution, this mixture was extracted with diethyl ether. This organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/1) to give the title compound (0.032 g).

reactant | 4-(5-carboxy-3-cyanoindol-1yl)benzoic acid ethyl ester | 0.057 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)C(=O)O)C#N)=O | C19H14N2O4
reactant | borane tetrahydrofuran | 1.2 mol/L, 0.2 mL | B.O1CCCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-(3-Cyano-5-hydroxymethylindol-1-yl)benzoic acid ethyl ester | 0.032 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)CO)C#N)=O | C19H16N2O3
